US05868961
3.0 g (20 mmol) of 1-bromo-n-heptane was dropped into a mixture of 0.5 g of magnesium (21 mmol) and 50 ml of THF to obtain Grignard reagent. This reagent was then dropped into a 50 ml THF solution of 4.9 g (20 mmol) of 4-(4-chloro -4-silacyclohexyl)-1,2-difluorobenzene to obtain 4-(4-n-heptyl -4-silacyclohexyl)-1,2-difluorobenzene. The product was a mixture of trans and cis isomers. They were separated by means of chromatography to obtain 5.3 g of the trans isomer (yield 93%).

reactant | 4-(4-chloro -4-silacyclohexyl)-1,2-difluorobenzene | 20 mmol, 4.9 g | Cl[SiH]1CCC(CC1)C1=CC(=C(C=C1)F)F | C11H13ClF2Si
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-(4-n-heptyl -4-silacyclohexyl)-1,2-difluorobenzene | yield 93% | C(CCCCCC)[SiH]1CCC(CC1)C1=CC(=C(C=C1)F)F | C18H28F2Si
